US06610688B2
Sodium tert-butoxide (1.37 g, 14.3 mmol) was added to the dry tert-butoxycarbonylmethyl)triphenylphosphonium bromide (6.56 g, 14.3 mmol) in THF (anhydrous, 30 mL) under nitrogen. The mixture was stirred at room temperature for 30 minutes. To the mixture was added 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.36 g, 13 mmol) in THF (35 mL). The mixture was then stirred at room temperature under nitrogen for overnight. The solid was filtered off and the filtrate was concentrated followed by column chromatograph (10% EtOAc in hexane) to give 2.95 g (81%) of 5-(2-tert-butoxycarbonyl-vinyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester. 1H NMR (300 MHz, DMSO-d6) δ 11.85 (br s, 1H, NH), 7.35 (d, J=15.7 Hz, 1H), 6.73 (s, 1H), 6.41 (d, J=15.7 Hz, 1H), 4.23 (q, J=7.1 Hz, 2H, OCH2), 2.22 (s, 3H, CH3), 1.44 (s, 9H, 3×CH3), 1.28 (t, J=7.1 Hz, 3H, OCH2CH3). MS 279 [M+].

reactant | Sodium tert-butoxide | 14.3 mmol, 1.37 g | CC(C)([O-])C.[Na+]
reactant | triphenylphosphonium bromide | 14.3 mmol, 6.56 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 13 mmol, 2.36 g | C(C)OC(=O)C=1NC(=CC1C)C=O | C9H11NO3
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 35 mL | C1CCOC1 | C4H8O
product | 5-(2-tert-butoxycarbonyl-vinyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 2.95 g, 81% | C(C)OC(=O)C=1NC(=CC1C)C=CC(=O)OC(C)(C)C | C15H21NO4
